US07598232B2
To a solution of acetyl chloride (10 mmol) in tetrahydrofuran (40 mL) was added dropwise a solution of 2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone (10 mmol) in tetrahydrofuran. The solution was stirred overnight and the completion of the reaction was monitored by TLC. The solvent was removed and the residue was taken up in dichloromethane and washed with water. The organic layer was dried over anhydrous sodium sulfate and evaporated to give (E)-2,4,6-trimethoxystyryl-3-(acetamido)-4-methoxybenzylsulfone in 68% yield. M.p. 220-223° C. NMR (DMSO-d6) δ 2.02(s, 2H), 3.84(s, 3H), 3.86(s, 6H), 3.88(s, 3H), 4.22 (s, 2H), 6.08(s, 2H), 7.09-7.12(d, 1H vinylic), 6.88-7.86(m, aromatic), 8.35(s, 1H).

reactant | acetyl chloride | 10 mmol | C(C)(=O)Cl | C2H3ClO
reactant | 2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone | 10 mmol | COC1=C(C=CC(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)C=CC2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (E)-2,4,6-trimethoxystyryl-3-(acetamido)-4-methoxybenzylsulfone | 68% yield | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(C)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(C)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C42H48N2O12S
